US07977340B2
A mixture of 3-Bromo-5-iodonitrobenzene (4.21 g, 0.0128 mol) and iron powder (3.6 g, 0.0642 mol) in glacial acetic acid (50 ml) was stirred at ambient temperature for 16 h. The reaction mixture was then filtered through a pad of celite and washed through with ethyl acetate. The filtrate was evaporated in vacuo to give a brown oil. This was re-dissolved in ethyl acetate, loaded onto a large pad of silica and eluted with ethyl acetate. The filtrate was evaporated in vacuo to afford 3-Bromo-5-iodoaniline as a brown solid (3.67 g, 96%) which was used without further purification.

reactant | 3-Bromo-5-iodonitrobenzene | 0.0128 mol, 4.21 g | BrC=1C=C(C=C(C1)I)[N+](=O)[O-] | C6H3BrINO2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 0.0642 mol, 3.6 g | [Fe] | Fe
product | 3-Bromo-5-iodoaniline | 3.67 g, 96% | BrC=1C=C(N)C=C(C1)I | C6H5BrIN
